US04342692
2-(3',4'-Dihydroxybenzyl)-5-[2-(4-chlorophenyl)ethyl]pyrrolidine hydrobromide
To a cold (-70° C.) solution of 24.2 g (0.67 mole) of 2-(3',4'-dimethoxybenzyl)-5-[2-(4-chlorophenyl)ethyl]pyrrolidine in 600 cc of methylene chloride was added dropwise 46.5 g (0.186 mole) of boron tribromide. After the addition the reaction mixture was gradually warmed to room temperature over a period of 2 hours. The mixture was cooled again to -70° C. and 300 ml of methanol was carefully added. Solvent was removed in vacuo. An additional 100 ml of methanol was added and removed in vacuo. The gummy residue was boiled in ethyl acetate and decanted, then triturated with ethyl acetate and left in the refrigerator overnight to give a solid. After recrystallization from a minimum amount of methanol there was obtained 7.05 g.

reactant | 2-(3',4'-dimethoxybenzyl)-5-[2-(4-chlorophenyl)ethyl]pyrrolidine | 0.67 mole, 24.2 g | COC=1C=C(CC2NC(CC2)CCC2=CC=C(C=C2)Cl)C=CC1OC | C21H26ClNO2
reactant | boron tribromide | 0.186 mole, 46.5 g | B(Br)(Br)Br | BBr3
reactant | methanol | 300 ml | CO | CH4O
solvent | methylene chloride | 600 cc | C(Cl)Cl | CH2Cl2
product | 2-(3',4'-Dihydroxybenzyl)-5-[2-(4-chlorophenyl)ethyl]pyrrolidine hydrobromide | Br.OC=1C=C(CC2NC(CC2)CCC2=CC=C(C=C2)Cl)C=CC1O | InChI=1S/C19H22ClNO2.BrH/c20-15-5-1-13(2-6-15)3-7-16-8-9-17(21-16)11-14-4-10-18(22)19(23)12-14;/h1-2,4-6,10,12,16-17,21-23H,3,7-9,11H2;1H
